US06809110B2
In analogy to the procedure described in example 10 d], [rac]-3-{4-[2-(2-chloro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester was treated with LiOH to obtain [rac]-3-{4-[2-(2-chloro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid as colorless solid.

reactant | [rac]-3-{4-[2-(2-chloro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=C(C=CC=C1)Cl)C)OCC)=O | C24H26ClNO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-3-{4-[2-(2-chloro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid | ClC1=C(C=CC=C1)C=1SC=C(N1)COC1=CC(=C(C=C1)CC(C(=O)O)OCC)C | C22H22ClNO4S
